US05081138
1-(p-Chlorobenzyl)-α,α-dimethyl-3-methylthio -5-(i-propyl)-indole-2-propanoic acid
Following the procedure of Example 10, but using 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]hydrazine hydrochloride and methyl 2,2-dimethyl-5-methylthio-4-oxopentanoate as starting materials and hydrolysis at reflux, the title compound was prepared, mp 143°-144°.

reactant | 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)C(C)C)C=C1
reactant | methyl 2,2-dimethyl-5-methylthio-4-oxopentanoate | CC(C(=O)OC)(CC(CSC)=O)C | C9H16O3S
product | 1-(p-Chlorobenzyl)-α,α-dimethyl-3-methylthio -5-(i-propyl)-indole-2-propanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(C)C)SC)CC(C(=O)O)(C)C)C=C1 | C24H28ClNO2S
